US07932401B2
Analogous reaction of “E2a” with 3-carboxystyrene gives the compound 5-[5-(3-carboxystyryl)-2,4-dimethoxyphenyl]1-(2-chlorophenyl)-1H-pyrazole and hydrogenation thereof gives 5-{5-[2-(3-carboxyphenyl)ethyl]2,4-dimethoxyphenyl}-1-(2-chlorophenyl)-1H-pyrazole. Ether cleavage gives 5-{5-[2-(3-carboxyphenyl)ethyl]2,4-dihydroxyphenyl}-1-(2-chlorophenyl)-1H-pyrazole.

reactant | 5-{5-[2-(3-carboxyphenyl)ethyl]2,4-dimethoxyphenyl}-1-(2-chlorophenyl)-1H-pyrazole | C(=O)(O)C=1C=C(C=CC1)CCC=1C(=CC(=C(C1)C1=CC=NN1C1=C(C=CC=C1)Cl)OC)OC | C26H23ClN2O4
solvent | Ether | CCOCC | C4H10O
product | 5-{5-[2-(3-carboxyphenyl)ethyl]2,4-dihydroxyphenyl}-1-(2-chlorophenyl)-1H-pyrazole | C(=O)(O)C=1C=C(C=CC1)CCC=1C(=CC(=C(C1)C1=CC=NN1C1=C(C=CC=C1)Cl)O)O | C24H19ClN2O4
